US04661507
Preparation of 3-Methylthio-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol
3-Mercapto-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol (230 mg) (prepared as in the previous Example), potassium carbonate (138 mg, 2.7 equivalents), and methyl iodide (200 mg, 1.9 equivalents) were stirred together in acetone (15 ml) at room temperature for two hours. The acetone was then evaporated under reduced pressure, and the residue triturated with water to give the crude title compound as a solid, 220 mg. This was crystallized from isopropanol to yield the pure title compound, yield 190 mg, m.p. 117°-119° C.

reactant | 3-Mercapto-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | 230 mg | SCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C11H11Cl2N3OS
reactant | potassium carbonate | 138 mg, 2.7 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 200 mg, 1.9 equivalents | CI | CH3I
solvent | acetone | 15 ml | CC(=O)C | C3H6O
product | 3-Methylthio-2-(2,4-dichlorophenyl)-1-(1H-1,2,4-triazol-1-yl)propan-2-ol | CSCC(CN1N=CN=C1)(O)C1=C(C=C(C=C1)Cl)Cl | C12H13Cl2N3OS
